US06509346B2
A mixture of 1-benzyl-3-pyrrolidinone (10.0 g, 57 mmol), di-tert-butyl dicarbonate (13.7 g, 63 mmol) and palladium on active carbon (2.5 g, w/w 20%) in MeOH was shaken in a Parr hydrogenation vessel (50 psi H2) for 48 hours. The reaction mixture was filtered through celite and concentrated in vacuo. Chromatographic purification on silica gel (Hexane/EtOAc=1/1) provided 6.21 g 1-t-butoxycarbonyl-3-pyrrolidinone (59%). 1H-NMR (250 MHz, CDCl3) δ: 1.46 (9H, s), 2.57 (2H, t, J=7.8 Hz), 3.71-3.75 (4H, m).

reactant | 1-benzyl-3-pyrrolidinone | 57 mmol, 10.0 g | C(C1=CC=CC=C1)N1CC(CC1)=O | C11H13NO
reactant | di-tert-butyl dicarbonate | 63 mmol, 13.7 g | C(=O)(OC(C)(C)C)OC(=O)OC(C)(C)C | C10H18O5
solvent | MeOH | CO | CH4O
catalyst | palladium | [Pd] | Pd
product | 1-t-butoxycarbonyl-3-pyrrolidinone | 6.21 g, 59% | C(C)(C)(C)OC(=O)N1CC(CC1)=O | C9H15NO3
